US07745491B2
LHMDS (162 ml of a 1M solution in THF, 162 mmol) was diluted with anhydrous THF (161 ml) and cooled to −20° C. with stirring. A solution of 2-(4-cyclopropylsulfanylphenyl)-N-(2(R)-hydroxy-1(R)-methyl-2-phenylethyl)-N-methylacetamide (Preparation 3, 30 g, 84.4 mmol) in anhydrous THE (245 ml) was added via cannula over 10 min, ensuring the reaction temperature remained below −15° C. throughout the addition. The reaction was allowed to warm to −7° C. over 30 min then cooled to −12° C. and a solution of 7(S)-iodomethyl-2(S),3(S)-diphenyl-1,4-dioxaspiro[4,4]nonane (27 g, 64.2 mmol) in a mixture of anhydrous THF (111 ml) and DMPU (18.9 ml) added via cannula over 10 min, ensuring the reaction temperature remained below −7° C. throughout. The reaction was warmed to 2° C. and stirred for 4.5 h before being poured into a mixture of toluene (770 ml) and 20% aqueous NH4Cl (550 ml). After stirring vigorously, the organic layer was separated and washed with 20% aqueous NH4Cl (550 ml) and brine (100 ml). The aqueous phases were combined and extracted with EtOAc (500 ml) which, after separation, was washed with brine (100 ml). The combined organic phases were dried (MgSO4), filtered, evaporated and the resulting oil purified by flash chromatography (1H-EtOAc, 9:1 changing incrementally to 1:1) to afford 2(R)-(4-cyclopropylsulfanylphenyl)-3-(2(S),3(S)-diphenyl-1,4-dioxaspiro[4.4]non-7(R)-yl)-N-(2(R)-hydroxy-1(R)-methyl-2-phenylethyl)-N-methylpropionamide: m/z (ES+)=648.3 [M+H]+. A stirred solution of this amide (30.7 g, 47.38 mmol) in 1,4-dioxane (62 ml) was diluted with 4.5M aqueous H2SO4 (61.5 ml) and the resulting mixture heated under gentle reflux for 18 h. After cooling on ice, water (162 ml) was added and the mixture extracted with EtOAc (250 ml). The aqueous layer was separated and extracted further with EtOAc (2×150 ml) and the combined organic phases washed with water (3×200 ml), ensuring the final wash was pH neutral, and brine (100 ml). After drying (MgSO4) and filtering, the solvent was removed and the residue purified by flash chromatography (CH2Cl2 then CH2Cl2-THF, 5:1 changing to 3:1) to afford the title compound: m/z (ES+)=305.1 [M+H]+.

reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-(4-cyclopropylsulfanylphenyl)-N-(2(R)-hydroxy-1(R)-methyl-2-phenylethyl)-N-methylacetamide | 84.4 mmol, 30 g | C1(CC1)SC1=CC=C(C=C1)CC(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C | C21H25NO2S
reactant | 7(S)-iodomethyl-2(S),3(S)-diphenyl-1,4-dioxaspiro[4,4]nonane | 64.2 mmol, 27 g | IC[C@@H]1CC2(O[C@H]([C@@H](O2)C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C20H21IO2
reactant | NH4Cl | 550 ml | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 161 ml | C1CCOC1 | C4H8O
solvent | THF | 111 ml | C1CCOC1 | C4H8O
solvent | toluene | 770 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMPU | 18.9 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 2(R)-(4-cyclopropylsulfanylphenyl)-3-(2(S),3(S)-diphenyl-1,4-dioxaspiro[4.4]non-7(R)-yl)-N-(2(R)-hydroxy-1(R)-methyl-2-phenylethyl)-N-methylpropionamide | C1(CC1)SC1=CC=C(C=C1)[C@H](C(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C)C[C@@H]1CC2(O[C@H]([C@@H](O2)C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C41H45NO4S
